US07173025B1
To a solution of 5-methoxyindole-2-carboxylic acid (168 mg, 0.88 mmol) in DMF (4 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (168 mg, 0.88 mmol), 1-hydroxybenzotriazole (118 mg, 0.88 mmol) and Et3N (0.12 ml, 0.88 mmol) followed by 1-(4-pyridyl)-3-(5-amino-2-pyridyloxy)pyrrolidine (150 mg, 0.58 mmol) and the resulting suspension stirred at room temperature for 7 days. The mixture was poured into saturated aqueous NaHCO3 solution and the solid precipitate collected by filtration and washed with water then dried (over P2O5) to give 1-(4-pyridyl)-(5-(6-methoxyindol-2-ylcarbonylamino)pyrid-2-yloxy)pyrrolidine as an off white solid (195 mg);

reactant | 5-methoxyindole-2-carboxylic acid | 0.88 mmol, 168 mg | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.88 mmol, 168 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.88 mmol, 118 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Et3N | 0.88 mmol, 0.12 ml | CCN(CC)CC | C6H15N
reactant | 1-(4-pyridyl)-3-(5-amino-2-pyridyloxy)pyrrolidine | 0.58 mmol, 150 mg | N1=CC=C(C=C1)N1CC(CC1)OC1=NC=C(C=C1)N | C14H16N4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-(4-pyridyl)-(5-(6-methoxyindol-2-ylcarbonylamino)pyrid-2-yloxy)pyrrolidine | N1=CC=C(C=C1)N1C(CCC1)OC1=NC=C(C=C1)NC(=O)C=1NC2=CC(=CC=C2C1)OC | C24H23N5O3
